US05036077
(A) 3-(1-Bromonaphth-2-yloxy)-1,2-epoxypropane
A suspension containing 22.3 g of 1-bromonaphth-2-ol, 27.75 g of 1-chloro-2,3-epoxypropane and 27.6 g of potassium carbonate in 200 ml of butanone is refluxed overnight. The inorganic salts are filtered off and drained and the filtrate is then evaporated under vacuum. The oil obtained is distilled under 0.01 mm of mercury.

reactant | 1-bromonaphth-2-ol | 22.3 g | BrC1=C(C=CC2=CC=CC=C12)O | C10H7BrO
reactant | 1-chloro-2,3-epoxypropane | 27.75 g | ClCC1CO1 | C3H5ClO
reactant | potassium carbonate | 27.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | butanone | 200 ml | CC(CC)=O | C4H8O
product | 3-(1-Bromonaphth-2-yloxy)-1,2-epoxypropane | BrC1=C(C=CC2=CC=CC=C12)OCC1CO1 | C13H11BrO2
